US06900227B2
Preparation of 4-methoxyphenyl-4-chlorophenyl-dichloromethane
From 4-chlorobenzotrifluoride (180 mg, 1 mmol), AlCl3 (400 mg, 3 mmol) and anisole (108 mg, 1 mmol), red solid (345 mg, 120% crude), contains the benzophenone (ca 30%).

reactant | 4-chlorobenzotrifluoride | 1 mmol, 180 mg | ClC1=CC=C(C=C1)C(F)(F)F | C7H4ClF3
reactant | AlCl3 | 3 mmol, 400 mg | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | anisole | 1 mmol, 108 mg | C1(=CC=CC=C1)OC | C7H8O
reactant | benzophenone | C(C1=CC=CC=C1)(=O)C1=CC=CC=C1 | C13H10O
product | 4-methoxyphenyl-4-chlorophenyl-dichloromethane | COC1=CC=C(C=C1)C(Cl)(Cl)C1=CC=C(C=C1)Cl | C14H11Cl3O
